US05702710
Preparation of 1,2,3,4-tetrahydro-1,4a,9b-trimethyl-1,4-methanodibenzofuran:
50 g (0.267 mol) of bromoanisole, in solution in 120 ml of ethyl ether, were treated at 0° C. with 200 ml of n-butyllithium (1.6M in hexane) and the mixture was maintained under stirring at room temperature overnight. 41.57 g (273 mmol) of (+)-fenchone (Fluka) in 100 ml of ethyl ether were then added dropwise and the mixture was maintained under stirring for 6 h at room temperature. The reaction mixture was poured into 200 ml of a saturated ammonium chloride solution.

reactant | bromoanisole | 0.267 mol, 50 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | n-butyllithium | 1.6M, 200 ml | C(CCC)[Li]
reactant | (+)-fenchone | 273 mmol, 41.57 g | C[C@]12CCC(C1)C(C2=O)(C)C | C10H16O
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
reactant | ethyl ether | 120 ml | C(C)OCC | C4H10O
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | 1,2,3,4-tetrahydro-1,4a,9b-trimethyl-1,4-methanodibenzofuran | CC12CCC(C3(OC4=C(C31C)C=CC=C4)C)C2 | C16H20O
